US07112582B2
Step 6; 2-{(RS)-Acetoxy-[(5R,6RS)-6-bromo-2-(4-nitrobenzyloxycarbonyl)-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-en-6-yl]-methyl}-6,7-dihydro-4H-Pyrazolo[1,5-a]pyrazine-5-carboxylic acid 4-nitrobenzyl ester
2-Formyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazine-5-carboxylic acid 4-nitrobenzyl ester (2.71 g) was added to the dry acetonitrile (164 mL) solution of anhydrous MgBr2 (cont. 98%) (6.17 g) under a nitrogen atmosphere at room temperature. The dry THF solution (164 mL) of (5R,6S)-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitrobenzyl ester (cont. 96.5%) (3.27 g) was added to the mixture, cooled to −20° C., and Et3N (cont. 99%) (9.24 mL) was added in one portion. The reaction vessel was covered with foil to exclude light. The reaction mixture was stirred for 1.5 h at −20° C. and treated with acetic anhydride (cont. 97%) (3.19 mL) and DMAP (cont. 99%) (203 mg) in one portion. The reaction mixture was warmed to 0° C. and stirred for 1 h at 0° C. Acetic anhydride (3.19 mL) was added to the solution and stirred for 15 h at 0° C. The mixture was diluted with ethyl acetate and washed with 5% citric acid aqueous solution, saturated sodium hydrogen carbonate, water and brine. The organic layer was dried (MgSO4), followed by concentration under reduced pressure. The residue was purified with silica-gel column chromatography three times (n-hexane-AcOEt (1/1 to 2/3), CHCl3-acetone (29/1 to 19/1) and CHCl3-acetone (29/1)). The titled compound was obtained as yellow amorphous (diastereo-mixture (64:36), 3.30 g, 53%).

reactant | 2-Formyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazine-5-carboxylic acid 4-nitrobenzyl ester | 2.71 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2CC=3N(CC2)N=C(C3)C=O)C=C1 | C15H14N4O5
reactant | MgBr2 | 6.17 g | [Mg+2].[Br-].[Br-]
reactant | (5R,6S)-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitrobenzyl ester | 3.27 g | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C([C@@H]([C@H]3SC2)Br)=O)C=C1 | C13H9BrN2O5S
reactant | acetic anhydride | 3.19 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Acetic anhydride | 3.19 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 203 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Et3N | 9.24 mL | CCN(CC)CC | C6H15N
solvent | THF | 164 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 164 mL | C(C)#N | C2H3N
product | 2-{(RS)-Acetoxy-[(5R,6RS)-6-bromo-2-(4-nitrobenzyloxycarbonyl)-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-en-6-yl]-methyl}-6,7-dihydro-4H-Pyrazolo[1,5-a]pyrazine-5-carboxylic acid 4-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)N2CC=3N(CC2)N=C(C3)C(C3([C@H]2SC=C(N2C3=O)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])Br)OC(C)=O)C=C1 | C30H25BrN6O11S
